datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[C:14]([c:15]1[c:16]([H:23])[c:17]([H:24])[c:18]([H:25])[c:19]([H:26])[c:20]1[H:27])([H:21])[H:22]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([H:11])([H:12])[H:13])([H:4])([H:5])[H:6].[H:7][C:14]([c:15]1[c:16]([H:23])[c:17]([H:24])[c:18]([H:25])[c:19]([H:26])[c:20]1[H:27])([H:21])[H:22],58.6262
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([C:11]([H:15])([H:16])[H:17])[H:14])([H:12])[H:13]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:10]([C:9]([H:12])[H:13])([C:11]([H:15])([H:16])[H:17])[H:14])[H:4],43.3462
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:27])([H:28])[H:29])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])([H:10])[H:11].[H:30]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:28])[H:29])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])([H:10])[H:11].[H:27][H:30],28.267104
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([H:5])[H:6])[H:4].[C:10]([C:11](=[C:12]([H:16])[H:17])[H:15])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[H:4].[H:5][C:10]([C:11](=[C:12]([H:16])[H:17])[H:15])([H:13])[H:14],48.116
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:12])([H:13])[H:14])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:8].[C:18](#[C:19][C:20]([C:21]([H:24])([H:25])[H:26])[H:23])[H:22]>>[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([C:5]([H:12])([H:13])[H:14])([C:6](=[C:7]([H:16])[H:17])[H:15])[C:20]([C:19]#[C:18][H:22])([C:21]([H:24])([H:25])[H:26])[H:23])[H:8],33.5975
[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:16])([H:14])[H:15])[C:6]([O:7][O:8][H:19])([H:17])[H:18])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]1([C:6]([O:7][O:8][H:19])([H:17])[H:18])[C:3]([H:14])([H:15])[O:4]1)([H:12])[H:13])([H:9])([H:10])[H:11].[O:5][H:16],40.1664
[C:0](=[C:1]([C:2]#[C:3][C:4]([H:8])([H:9])[H:10])[H:7])([H:5])[H:6].[C:11](=[C:12]([H:14])[H:15])[H:13]>>[C:0](=[C:1]([C:2](=[C:3][C:4]([H:8])([H:9])[H:10])[C:11](=[C:12]([H:14])[H:15])[H:13])[H:7])([H:5])[H:6],21.9242
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[C:11]([C:12](=[C:13]([H:17])[H:18])[H:16])([H:14])[H:15]>>[C:0](=[C:1]([C:2](=[C:3]([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[H:8][C:11]([C:12](=[C:13]([H:17])[H:18])[H:16])([H:14])[H:15],0.0
[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[C:15]([C:16](=[C:17]([H:21])[H:22])[H:20])([H:18])[H:19]>>[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:8])[H:9].[H:7][C:15]([C:16](=[C:17]([H:21])[H:22])[H:20])([H:18])[H:19],64.4336
[N:0]=[C:1]=[O:2].[O:3][O:4][H:5]>>[N:0](=[C:1]=[O:2])[H:5].[O:3][O:4],0.0
[C:0](=[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])[C:4](=[C:5]([C:6]([C:7](=[C:8]([C:9]([H:22])([H:23])[H:24])[H:21])[H:20])([H:18])[H:19])[H:17])[H:16])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]1([C:3]([H:13])([H:14])[H:15])[C:4]([H:16])=[C:5]([H:17])[C:6]([H:18])([H:19])[C:7]1([C:8]([C:9]([H:22])([H:23])[H:24])[H:21])[H:20])[H:12])([H:10])[H:11],128.784
[C:0](#[C:1][C:2]#[C:3][H:5])[H:4].[C:6]([C:7]([H:10])([H:11])[H:12])([H:8])[H:9]>>[C:0](=[C:1]([C:2]#[C:3][H:5])[C:6]([C:7]([H:10])([H:11])[H:12])([H:8])[H:9])[H:4],32.4678
[O:0][C:1]([c:2]1[c:3]([H:10])[c:4]([H:11])[c:5]([H:12])[c:6]([H:13])[c:7]1[H:14])([H:8])[H:9]>>[H:8].[O:0]=[C:1]([c:2]1[c:3]([H:10])[c:4]([H:11])[c:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:9],93.089816
[C:0]([C:1]([C:2]([C:3]([C:4](=[C:5]([C:6]([H:17])([H:18])[H:19])[H:16])[H:15])([H:13])[H:14])([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])[C:5]1([C:6]([H:17])([H:18])[H:19])[H:16])([H:7])([H:8])[H:9],69.2034
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])=[C:5]([C:6]([H:14])([H:15])[H:16])[H:13])[H:9])([H:7])[H:8].[C:17]([C:18]([c:19]1[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]([H:32])[c:24]1[H:33])[H:28])([H:25])([H:26])[H:27]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([C:5]([C:6]([H:14])([H:15])[H:16])[H:13])[C:18]([C:17]([H:25])([H:26])[H:27])([c:19]1[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]([H:32])[c:24]1[H:33])[H:28])[H:9])([H:7])[H:8],46.6098
[C:0](=[C:1][C:2](=[C:3]([H:7])[H:8])[H:6])([H:4])[H:5].[C:9]([S:10][H:14])([H:11])([H:12])[H:13]>>[C:0](=[C:1]([C:2](=[C:3]([H:7])[H:8])[H:6])[H:14])([H:4])[H:5].[C:9]([S:10])([H:11])([H:12])[H:13],8.368
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[C:6](=[C:7]([C:8]([C:9]([H:15])([H:16])[H:17])[C:10](=[C:11]([H:19])[H:20])[H:18])[H:14])([H:12])[H:13]>>[C:0](=[C:1]([H:4])[H:5])[H:3].[H:2][C:8]([C:7](=[C:6]([H:12])[H:13])[H:14])([C:9]([H:15])([H:16])[H:17])[C:10](=[C:11]([H:19])[H:20])[H:18],142.256
